US06159901
Production of 4-methoxy-6-[3-(trifluoromethyl)phenoxy] picolinic acid hydrazide (compound No. II-1)
4-methoxy-6-[3-(trifluoromethyl)phenoxy] picolinic acid, N',N'-dibenzyl hydrazide (7.38 g, 0.0145 mol) was mixed with a mixed solution of ethyl acetate (about 50 ml) and methanol (about 50 ml), and further with 10% palladium/carbon (1.0 g, 0.0145×0.065 mol) in a hydrogen atmosphere. The resultant mixture was stirred at a temperature of 50 to 60° C. for about 5 hours. The obtained reaction solution was filtered and concentrated, thereby obtaining an aimed product.

reactant | 4-methoxy-6-[3-(trifluoromethyl)phenoxy] picolinic acid, N',N'-dibenzyl hydrazide | 0.0145 mol, 7.38 g | C(C1=CC=CC=C1)N(NC(C1=NC(=CC(=C1)OC)OC1=CC(=CC=C1)C(F)(F)F)=O)CC1=CC=CC=C1 | C28H24F3N3O3
reactant | ethyl acetate | about 50 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium/carbon | 0.065 mol, 1.0 g | [Pd] | Pd
solvent | methanol | about 50 ml | CO | CH4O
product | 4-methoxy-6-[3-(trifluoromethyl)phenoxy] picolinic acid hydrazide | COC1=CC(=NC(=C1)OC1=CC(=CC=C1)C(F)(F)F)C(=O)NN | C14H12F3N3O3
